datasets/10k__Tet_Int.csv
SMILES Labelled
"CC[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C([H])[CH](C)[O]1 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])[NH][C:20]([O][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])[NH]1)[C:20]1([NH:21]CC)[O][H] 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]([O-:10])(OCC)[O:21]C)C>>C1=CC=CC=C1N([C:20](=[O:10])OCC)C.[O-:21]C 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH][C:20]([NH][H])=[NH+:21]C 21=20;20,10=10"
"[O-:21][C:20]1(OC)C(C)=C(C)C([H])C(C)[NH+:10]1(C)>>[NH:10](C)C(C)C([H])/C(C)=C(C)\[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(C)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(CC)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[O]C(C7=CC=CC=C7)C(CC)[O]1 10=20;20,21=21"
"[H][NH:10][H].C1CC(=O)N(C1=O)O[C:20](=[O:21])OC>>[H][NH+:10]([C:20]([O-:21])(ON1C(=O)CCC1=O)OC)[H] 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1)CCCCCC.[O-:21]CCCCCC>>CCC1C(C(O[C:20](N1CC)([O-:10])[O:21]CCCCCC)C1=CC=CC=C1)CCCCCC 21=20;20,10=10"
"[H][NH+:10](C(CC)C(C)C(CC)[O]1)[C:20]1([NH:21]CC)[O]C.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C)C(CC)[O][C:20]([O]C)=[NH+:21]CC 21=20;20,10=10"
"[H][O+:10](C(C)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(C8=CC=CC=C8)[NH][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"CCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC)CCCCCC.[O-:21]CC>>CCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)CC)CCCCCC 21=20;20,10=10"
"[H][NH:10]C(CC)C([H])C(CC)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C([H])C(CC)[O]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(C)[NH][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C[S+:10]([H])[C:20]1([O:21][H])[S][CH]([H])C(C)[CH](C)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH]([H])[CH](C)C(C)[S]2.C[S:10][H] 21=20;20,10=10"
"[H][O+:10](C(C)C(C)C(CC)[O]1)[C:20]1([NH:21]C)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C(CC)[O][C:20]([NH]CC)=[NH+:21]C 21=20;20,10=10"
"CC[S+:10]([H])[C:20]1([O:21][H])[O][CH](C7=CC=CC=C7)C(C)[CH](C)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C)[O]2.CC[S:10][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CCCCCC)C)[H].[O-:21]CC>>C1=CC=CC=C1C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)C)[H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1CC)([O-:10])[Cl:21])C)[H]>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CC)C)[H].[Cl-:21] 10=20;20,21=21"
"[OH:21][C:20]1([H])C(O)C([H])C([H])C([H])[OH+:10]1>>[OH:10]C([H])C([H])C([H])C(O)[C:20]([H])=[OH+:21] 21=20;20,10=10"
"C9=CC=CC=C9[NH:10][H].C[NH+:21]=[C:20]([O]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]C)([O]CC)[NH]C7=CC=CC=C7 10=20;20,21=21"
"CC1C(C(O[C:20](=[O:10])N1CC)C)C.[O-:21]C1=CC=CC=C1>>CC1C(C(O[C:20](N1CC)([O-:10])[O:21]C1=CC=CC=C1)C)C 21=20;20,10=10"
"[H][S:10]C([H])C([H])[S][C:20]([S][H])=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C([H])[S]1)[C:20]1([O:21][H])[S][H] 10=20;20,21=21"
"[H][S:10]C(C9=CC=CC=C9)C(C)C(C)[O][C:20]([S]C)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(C)C(C)[O]1)[C:20]1([O:21]C)[S]C 10=20;20,21=21"
"[OH:10]C(CCC)C([H])C([H])C(C)[C:20](OC)=[OH+:21]>>[OH:21][C:20]1(OC)C(C)C([H])C([H])C(CCC)[OH+:10]1 10=20;20,21=21"
"CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C)CC.[O-:21]C>>CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C)C)CC 21=20;20,10=10"
"[H][NH:10]C(C)C(C)C(C8=CC=CC=C8)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7 10=20;20,21=21"
"CCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[Cl:21])C)CC>>CCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C)CC.[Cl-:21] 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[O]2.CC[NH:10][H] 21=20;20,10=10"
"C(C([O-:21])[H])(C(O[C:20](=[O:10])OCCCCCC)[H])CCCCCC>>C1(C(O[C:20]([O-:10])([O:21]C1[H])OCCCCCC)[H])CCCCCC 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(C)[S][C:20]([S][H])=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(C)[S]1)[C:20]1([O:21]C)[S][H] 10=20;20,21=21"
"[H][O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]C8=CC=CC=C8)[O]CC.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]C8=CC=CC=C8)[O]CC 10=20;20,21=21"
"CCCCCC[O+:10]([Na])[C:21]([O-:20])(OC)O[H]>>[O:20]=[C:21](OC)O[H].CCCCCC[O:10][Na] 20=21;21,10=10"
"[H][O+:10](C([H])C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)[O][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
